US09388140B2
To a stirred solution of 4-(4-amino-6-bromo-1H-benzimidazol-1-yl)-N-cyclopropyl-2-methylbenzamide (5.00 g, 12.98 mmol) in DCE at rt was added 3,3,3-trifluoropropanal (4.36 g, 38.93 mmol, 3 eq), sodium triacetoxy borohydride (13.75 g, 64.89 mmol, 5 eq) and acetic acid (14.9 mL, 259.56 mmol, 20 eq) and the mixture was stirred for overnight. Water and DCM was added, and the organic phase was separated and washed with water After addition of DCM, the organic phase was washed with water and evaporated to yield 4-{6-bromo-4-[(3,3,3-trifluoropropyl)amino]-1H-benzimidazol-1-yl}-N-cyclopropyl-2-methylbenzamide (50%).

reactant | 4-(4-amino-6-bromo-1H-benzimidazol-1-yl)-N-cyclopropyl-2-methylbenzamide | 12.98 mmol, 5.00 g | NC1=CC(=CC=2N(C=NC21)C2=CC(=C(C(=O)NC1CC1)C=C2)C)Br | C18H17BrN4O
reactant | 3,3,3-trifluoropropanal | 38.93 mmol, 4.36 g, 3 eq | FC(CC=O)(F)F | C3H3F3O
reactant | sodium triacetoxy borohydride | 64.89 mmol, 13.75 g, 5 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 259.56 mmol, 14.9 mL, 20 eq | C(C)(=O)O | C2H4O2
solvent | DCE | ClCCCl | C2H4Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 4-{6-bromo-4-[(3,3,3-trifluoropropyl)amino]-1H-benzimidazol-1-yl}-N-cyclopropyl-2-methylbenzamide | 50% | BrC=1C=C(C2=C(N(C=N2)C2=CC(=C(C(=O)NC3CC3)C=C2)C)C1)NCCC(F)(F)F | C21H20BrF3N4O
